US04034092
A solution of 44.4 g (0.296 mol) of ethyl malonyl chloride in 80 ml of tetrahydrofuran and a solution of 29.6 g (0.296 mol) of potassium bicarbonate in 100 ml of water were added simultaneously over a 45 minute interval to a solution of 43.2 g (0.296 mol) of dithiocarbazic acid potassium salt in 200 ml of tetrahydrofuran and 200 ml of water at 5°. The reaction mixture was stirred at 5° for 1 hour then at ambient temperature for 12 hours. The solvents were evaporated and the residue was taken up into 350 ml of ethanol and refluxed on a steam bath for 1.5 hours. The mixture was evaporated to dryness, 300 ml of ethyl acetate and 175 ml of water were added to the residue and it was acidified to pH 2.3 by addition of 3N hydrochloric acid. The layers were separated and the aqueous phase was extracted twice more with 250 ml portions of ethyl acetate. The combined organic extracts were dried (MgSO4), then the solvent was evaporated to give a residue which was dissolved in methylene chloride. The methylene chloride solution was filtered and the filtrate was evaporated to dryness. The residue was chromatographed on silica gel with 98:2:3 chloroform-ethanol-formic acid as eluant to give 2-carbethoxymethyl-1,3,4-oxadiazole-5-thiol as a viscous oil.

reactant | ethyl malonyl chloride | 0.296 mol, 44.4 g | C(C)C(C(=O)Cl)C(=O)Cl | C5H6Cl2O2
reactant | potassium bicarbonate | 0.296 mol, 29.6 g | C([O-])(O)=O.[K+]
reactant | dithiocarbazic acid potassium salt | 0.296 mol, 43.2 g | [K+].C(NN)(=S)[S-]
reactant | tetrahydrofuran | 80 ml | O1CCCC1 | C4H8O
reactant | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
solvent | water | 100 ml | O | H2O
solvent | water | 200 ml | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 2-carbethoxymethyl-1,3,4-oxadiazole-5-thiol | C(=O)(OCC)CC=1OC(=NN1)S | C6H8N2O3S
